US05668278
4. 2-Amino-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine
8.19 g (146 mmole) potassium hydroxide, dissolved in 122 ml water and 122 ml ethanol, was added to 19.19 g (292 mmole) hydroxylamine hydrochloride in 200 ml ethanol. The mixture was stirred for 15 minutes, 12.5 g (58 mmole) 2-(2,5-dimethyl-1-pyrrolyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine added and heated for 30 hours under reflux. After removal of the ethanol the mixture was treated with ethyl acetate, filtered from solid material and the aqueous phase saturated with sodium chloride and extracted with ethyl acetate. The organic phase was with washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated. The crude product was purified by silica gel column chromatography (ethyl acetate/methanol).

reactant | potassium hydroxide | 146 mmole, 8.19 g | [OH-].[K+]
reactant | hydroxylamine hydrochloride | 292 mmole, 19.19 g | Cl.NO
reactant | 2-(2,5-dimethyl-1-pyrrolyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine | 58 mmole, 12.5 g | CC=1N(C(=CC1)C)C1=NN2C(CNCC2)=C1 | C12H16N4
reactant | ethanol | 122 ml | C(C)O | C2H6O
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 122 ml | O | H2O
product | 2-Amino-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine | NC1=NN2C(CCCC2)=C1 | C7H11N3
